Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cardiogenic shock
 
Major Surgical or Invasive Procedure:
-proctocolectomy
-Tracheal intubation
-cardiac catheterization ___: thrombotic LAD stent with no 
flow, and thrombotic Cx stent with TIMI 3 flow. Received Export 
to LAD and CX and POBA to both. RFA Perclose  

 
History of Present Illness:
Mr. ___ is a ___ year-old man with CAD s/p PCI w/ BMS to LAD 
and LCx on ___ with a recent diagnosis of colorectal 
cancer with plan for bowel resection today. However, he 
developed cardiac arrest during surgery requiring defibrillation 
and subsequently found to have ST elevations on EKG. Patient had 
apparently stopped both plavix and aspirin on ___ prior to his 
surgery today. Per report, patient became hypotensive on 
pressors with MAP in ___ and tachycardic to 120s after prone 
jackknife positioning. Rhythm was identified as ventricular 
tachycardia. He was flipped back supine and got CPR for ~10 
minutes, including Epi, Vasopressin, Atropine, a shock for 
transient VF, and a femoral CVL, with return of pulse and 
pressure. ABG immediately after was 7.___/39___ w/lactate 
7.2. He was transferred to ___ where TEE showed global LV 
hypokinesis and a normal RV, while the rhythm strip showed large 
ST elevations anteriorly. Troponins were greater than 
recordable. He was put on a heparin gtt and amiodarone bolus and 
was brought to the cath lab emergently on afternoon of ___.  

.  
In cath lab was found to have thrombotic LAD stent with no flow, 
and thrombotic Cx stent with TIMI 3 flow. Received Export to LAD 
and CX and POBA to both. RFA Perclose. He received a Heparin 
bolus and Plavix load in the cath lab and a Swan-Ganz was 
placed. His heparin ggt was turned off and he returned to the OR 
to complete proctocoletomy with open perineum and diverting 
ileostomy. He was transferred to the trauma SICU 
post-operatively and was cooled via Artic Sun protocol, and has 
since been rewarmed. Also has received 2 units PRCs on ___ 
for HCT of 29, and 1 dose of vanc/zosyn for post-op ppx.  
.  
Today he was noted to be dropping his pressures, so returned to 
___ lab to have balloon pump placed and angiogram which 
confirmed patency of vessels. Upon transfer to ICU, he is on 
levophed ggt, neo ggt, milrinone and vasopressin ggt. He is also 
on fentanyl/versed ggt's for sedation. He is anuric with a Cr of 
2.7 (baseline 0.9). Renal is following.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: Hyperlipidemia  
2. CARDIAC HISTORY:  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS:  
-___: Cath revealing two vessel coronary artery disease. 
With successful PTCA/stenting of the mid LAD with BMS and the 
proximal LCx with BMS  
-___: Cath revealing thrombosis of both stents s/p export 
with POBA  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY:  
-GERD  
-Colorectal Cancer- s/p chemo Xrt in ___  

 
Social History:
___
Family History:
He has three brothers and a sister, all of whom are healthy. His 
brother is status post a CABG. 
 
Physical Exam:
GENERAL: Intubated/sedated.  Responding to command by squeezing 
fingers  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple, JVP elevated to ear lobe lying flat
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS:  On vent, coarse BS anteriorly
ABDOMEN: Soft, Laparoscopic incisions c/d/i. Bowel in ostomy 
looks brown today.  No output right now.  No tenderness 
illicited   Abd aorta not enlarged by palpation. No abdominial 
bruits.  
EXTREMITIES:  Cool extremeties.  1+ ___ pulses.  Right groin 
catheter site c/d/i
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  

 
Pertinent Results:
ADMISSION LABS:
.

___ 12:52PM BLOOD WBC-10.8# RBC-3.23* Hgb-10.9* Hct-33.3* 
MCV-103* MCH-33.9* MCHC-32.8 RDW-13.3 Plt ___
___ 06:40PM BLOOD ___ PTT-77.0* ___
___ 12:52PM BLOOD Glucose-261* UreaN-18 Creat-1.4* Na-138 
K-5.1 Cl-105 HCO3-19* AnGap-19
___ 03:19PM BLOOD ALT-3942* AST-5276* LD(LDH)-5784* 
CK(CPK)-7255* AlkPhos-46 TotBili-1.5
___ 12:52PM BLOOD Calcium-8.4 Phos-6.7* Mg-2.4
.
CARDIAC ENZYMES
.

___ 03:19PM BLOOD CK-MB-GREATER TH cTropnT-GREATER TH
___ 05:47AM BLOOD CK-MB-305* MB Indx-7.6* cTropnT-GREATER 
TH
___ 10:52AM BLOOD CK-MB-184* MB Indx-5.5
___ 03:55PM BLOOD CK-MB-137* MB Indx-5.3
___ 04:53AM BLOOD CK-MB-58* MB Indx-4.9
___ 05:00AM BLOOD CK-MB-17* MB Indx-3.7 cTropnT-GREATER TH
.
STUDIES:
.
CARDIAC CATH ___: 
COMMENTS:      
1. Stent thrombosis of CX and LAD stents. 
2. Successful 2 vessel thrombectomy and balloon only 
angioplasty. 
  
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease. 
2. Primary angioplasty to LAD and Cx. 
.
ECHO ___:
LEFT ATRIUM: Mild ___. 

LEFT VENTRICLE: Mild symmetric LVH. Normal LV cavity size. 
Severely depressed LVEF. 

RIGHT VENTRICLE: Normal RV chamber size. Normal RV systolic 
function. Cannot assess regional RV systolic function. 

AORTA: Normal aortic diameter at the sinus level. 

AORTIC VALVE: Aortic valve not well seen. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Moderate 
mitral annular calcification.  

Conclusions  
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is severely 
depressed with near global LV severe hypokinesis/akinesis; the 
basal septum and basal lateral wall have relatively preserved 
function (overall LVEF= ___ %). Right ventricular chamber 
size is normal with grossly normal free wall contractility. The 
mitral valve leaflets are mildly thickened. The aortic valve is 
not well visualized.   

EKG ___:
Probable sinus rhythm at upper limits of normal rate. P-R 
interval 
prolongation. Fusion of the P wave with the prior T wave. There 
is a 
single wide complex beat, probably ventricular. Low limb lead 
voltage. 
There is an intraventricular conduction delay of left 
bundle-branch block type with prominent inferior and lateral ST 
segment elevation. Since the previous tracing of ___ the 
rate is faster. The axis is more vertical.  QRS complex is 
wider. ST-T wave abnormalities are new. Clinical correlation is 
suggested.  
.
ECHO ___:
Overall left ventricular systolic function is severely depressed 
(LVEF= 20 %). There is focal hypokinesis of the apical free wall 
of the right ventricle. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. [Due to 
acoustic shadowing, the severity of mitral regurgitation may be 
significantly UNDERestimated.] There is no pericardial effusion

 
Brief Hospital Course:
___ yo male with CAD s/p LAD/LCx BMS in ___ presenting with 
STEMI in setting of stopping asa/plavix prior to colorectal 
surgery, s/p cardiac arrest on table, on IABP, pressors, CVVH.  
Of note, the patient had no meaningful improvement and serial 
family meetings were held. Aware of the poor prognosis and 
believing that the current maximal supportive care including 
pressors, mechanical intubation, and IABP would not meet the 
patient's wishes, family decided to withdraw support and pt was 
taken of pressors, balloon pump, and was extubated.  He expired 
shortly there after at 16:03 on ___
.
# STEMI:  Pt initially presenting for elective proctocolectomy 
for locally invasive colorectal cancer.  Pt noted to go into 
Vtach on the operating table and subsequently found to have 
STEMI.  Of note, pt undwerwent successful PTCA/stenting of the 
mid LAD with BMS and the proximal LCx with BMS in ___, now 
presenting with thrombosis of the stents likely in the setting 
of stopping his asa/plavix prior to colorectal surgery. 
Underwent successful 2 vessel thrombectomy and balloon only 
angioplasty. Echo showing EF ___ with severely depressed LV 
function. IABP placed to augment coronary filling.  ECG showing 
q waves and low voltages indicating extensive non-recoverable 
myocardial injury.  He was maintained on asa, plavix and heparin 
ggt which was changed to argatroban for conern of HIT.  Despite 
interventions, pt continued to be cardiogenic shock as below.
.  

# Shock:  Pt with echo showing severely depressed LV systolic 
function with EF ___ in setting of STEMI. Pt initially on 
milrinone, neo, levophed, and vasopressin.  He was weaned off 
levophed, but continued on milrinone, neosynephrine, and 
vasopressin throughout admission. He was also started on 
vanc/zosyn for possible septic component.  He was in multiorgan 
failure with LFTs in the 5000s and Cr peaking at 5.1.  He was 
started on CVVH, but pt was unable to be weaned successfuly from 
pressors or the balloon pump, and prognosis was discussed with 
family who understood that recovery was unlikely.  The decision 
was eventually made to wean the pressors, d/c the balloon pump, 
and extubate on ___.  Pt expired shortly after at 16:03.  
.
# Ectopy:  Pt noted to have frequent multifocal PVCs on tele 
overnight ___ and was subsequently started on amio ggt.  
Continued to have ectopy throughout admission and was continued 
on amio until support was weaned
.
# ___: Cr peaking at 5.1 and actually improved to 3.4 in setting 
of CVVH.  However continued to be in multiorgan failure unable 
to wean from pressors. Likely ___ from cardiogenic shock

# Transaminitis:  LFTs peaking in the 3000-5000 range, likely 
shock liver.  They started to downtrend throughout admission.
.
# Anemia:  Pt received a total of 7 U PRBC over admission 
including intraoperatively with a goal ~30.  He continued to 
ooze from his perineum surgical site likely explaining his 
anemia.  DIC was considered but ruled out with fibrinogen and 
FDPs. 
.
# S/p Colectomy for colorectal surgery:  Pt s/p proctocolectomy 
with open perineum and diverting ileostomy.  Standard post-op 
care was maintained.  Of note, pt with significant oozing from 
open perineum likely contributing to anemia
 
Medications on Admission:
Ferrous sulfate 325 mg p.o. b.i.d.  
Plavix 75mg  
Ranitidine 300mg  
Nitroglycerin 0.4mg  
Simvastatin 20mg  
Aspirin  

 
Discharge Medications:
EXPIRED
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
EXPIRED
 
Discharge Condition:
EXPIRED
 
Discharge Instructions:
EXPIRED
 
Followup Instructions:
___